US05736555
53a) Methyl 4-methylbiphenyl-3-carboxylate
To a mixture of methyl 3-iodobenzoate (26.1 g) in 4-iodotoluene (21.9 g) was added copper powder (31.8 g) gradually at 180°-190° C. The mixture was then stirred for 6 hours at 200°-210° C. The reaction mixture was cooled to room temperature, to which was added toluene. insoluble materials were filtered off, and the filtrate was concentrated to dryness. The residue gas purified by column chromatography on silica gel to afford the title compound as a colorless oil (6.61 g, 29%).

reactant | methyl 3-iodobenzoate | 26.1 g | IC=1C=C(C(=O)OC)C=CC1 | C8H7IO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 4-iodotoluene | 21.9 g | IC1=CC=C(C=C1)C | C7H7I
catalyst | copper | 31.8 g | [Cu] | Cu
product | Methyl 4-methylbiphenyl-3-carboxylate | 6.61 g, 29% | CC1=C(C=C(C=C1)C1=CC=CC=C1)C(=O)OC | C15H14O2
